US04245097
Preparation of ethyl 4-(6-chlorohexadecylamino)benzoate
A solution of 10 g. of ethyl 4-(6-hydroxyhexadecylamino)benzoate and 2.4 ml. of pyridine in 50 ml. of chloroform is treated with 2.0 ml. of thionyl chloride, stirred under reflux for 1 hour, washed with 1 N hydrochloric acid and saturated aqueous sodium bicarbonate, dried over magnesium sulfate, and evaporated. The residue is crystallized from aqueous ethanol to yield the product as a white solid.

reactant | ethyl 4-(6-hydroxyhexadecylamino)benzoate | OC(CCCCCNC1=CC=C(C(=O)OCC)C=C1)CCCCCCCCCC | C25H43NO3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | ethyl 4-(6-chlorohexadecylamino)benzoate | ClC(CCCCCNC1=CC=C(C(=O)OCC)C=C1)CCCCCCCCCC | C25H42ClNO2
